US06303593B1
1-Benzyl-3-(RS)-(4-hydroxy-4-(3-phenylpropyl)piperidinylmethyl)-4-(SR)-(3-thienyl)pyrrolidine
The title compound was prepared from 1-benzyl-3-(SR)-formyl-4-(SR)-thiophen-3-ylpyrrolidine and 4-hydroxy-4-(3-phenylpropyl)piperidine by procedures described in Example 1.

reactant | 1-benzyl-3-(SR)-formyl-4-(SR)-thiophen-3-ylpyrrolidine | C(C1=CC=CC=C1)N1CC(C(C1)C1=CSC=C1)C=O | C16H17NOS
reactant | 4-hydroxy-4-(3-phenylpropyl)piperidine | OC1(CCNCC1)CCCC1=CC=CC=C1 | C14H21NO
product | 1-Benzyl-3-(RS)-(4-hydroxy-4-(3-phenylpropyl)piperidinylmethyl)-4-(SR)-(3-thienyl)pyrrolidine | C(C1=CC=CC=C1)N1CC(C(C1)C1=CSC=C1)CN1CCC(CC1)(CCCC1=CC=CC=C1)O | C30H38N2OS
